US08012976B2
Ethyl 3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a solution of (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one (1.78 g, 7.5 mmol) and 1-methyl-1H-1,2,4-triazole-5-carbaldehyde (1.01 g, 9.16 mmol) in ethyl propionate (110 mL) was added EtONa (sodium (490 mg, 21 mmol) in 35 mL ethanol) at 40° C., then the mixture was stirred at 41° C. for 3 hr. The resulting mixture was evaporated under reduced pressure and extracted with ethyl acetate (150 mL×4) and concentrated. The crude product was purified by column chromatography (silica gel, dichloromethane:methanol=200:1 to 50:1) to obtain a green solid (400 mg, yield 14%). LC-MS (ESI) m/z: 377 (M+1)+.

reactant | (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one | 7.5 mmol, 1.78 g | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC=C1)=O | C15H11NO2
reactant | 1-methyl-1H-1,2,4-triazole-5-carbaldehyde | 9.16 mmol, 1.01 g | CN1N=CN=C1C=O | C4H5N3O
reactant | EtONa | 21 mmol, 35 mL, 490 mg | CC[O-].[Na+]
solvent | ethyl propionate | 110 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 400 mg, yield 14% | CN1N=CN=C1C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=CC=C1 | C21H20N4O3
